US07439240B2
8-Amino-6-[(4-chlorophenyl)amino]-9-ethyl-9H-purine-2-carbonitrile
A solution of 5-amino-4-[(4-chlorophenyl)amino]-6-(ethylamino)pyrimidine-2-carbonitrile (0.41 g, prepared using the method of example 20) in acetonitrile (5 ml) was added to a stirred solution of FMOC-NCS (0.44 g) in acetonitrile (10 ml) at 0° C. After 1 h, diisopropylcarbodiimide (0.252 g) was added, the mixture heated under reflux for 4 h, cooled, piperazine (0.1 g) added and stirred at room temperature for 3 h. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and brine, the organics dried (MgSO4) and evaporated under reduced pressure. The solid was purified by chromatography on silica eluting with 2-4% methanol in dichloromethane. Yield 0.12 g

reactant | 5-amino-4-[(4-chlorophenyl)amino]-6-(ethylamino)pyrimidine-2-carbonitrile | NC=1C(=NC(=NC1NCC)C#N)NC1=CC=C(C=C1)Cl | C13H13ClN6
reactant | diisopropylcarbodiimide | 0.252 g | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | piperazine | 0.1 g | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 8-Amino-6-[(4-chlorophenyl)amino]-9-ethyl-9H-purine-2-carbonitrile | NC=1N(C2=NC(=NC(=C2N1)NC1=CC=C(C=C1)Cl)C#N)CC | C14H12ClN7
